US08012998B2
d) 2-{(RS)-1-[(3SR,4RS)-1-Benzyl-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine (XI-B-14)
To a suspension of PPh3 (PPh3 polymer bound, 3 mmol PPh3/g resin) (1.27 g, 4.85 mmol) in THF (25 mL) at 0° C. were added 5-chloro-pyridin-2-ol (0.429 g, 3.31 mmol) and then DBAD (0.81 g, 3.51 mmol). After 5 minutes was added (SR)-1-[(3SR,4RS)-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol (X-B-14) (0.70 g, 2.20 mmol). The reaction mixture was stirred over night at RT, filtered on celite and concentrated under vacuo. Extraction with EtOAc/aq.NaOH 1M, followed by column chromatography (SiO2, EtOAc/H, 1:6) yielded 0.69 g (73%) of the title compound as a colorless oil. ES-MS m/e: 429.2 (M+H+).

reactant | PPh3 | 3 mmol, 1.27 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 5-chloro-pyridin-2-ol | 3.31 mmol, 0.429 g | ClC=1C=CC(=NC1)O | C5H4ClNO
reactant | DBAD | 3.51 mmol, 0.81 g | C1=CC=C(C=C1)COC(=O)/N=N/C(=O)OCC2=CC=CC=C2 | C16H14N2O4
reactant | (SR)-1-[(3SR,4RS)-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethanol | 2.20 mmol, 0.70 g | FC1=C(C=CC(=C1)F)C1C(CNC1)C(C)O | C12H15F2NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-{(RS)-1-[(3SR,4RS)-1-Benzyl-4-(2,4-difluoro-phenyl)-pyrrolidin-3-yl]-ethoxy}-5-chloro-pyridine | 0.69 g, 73% | C(C1=CC=CC=C1)N1CC(C(C1)C1=C(C=C(C=C1)F)F)C(C)OC1=NC=C(C=C1)Cl | C24H23ClF2N2O
